US08278324B2
3-[6-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinyl]propanoic acid
To a solution of ethyl 3-[6-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinyl]propanoate (Preparation 20; 90 mg; 0.186 mmol) in ethanol (2 ml) and THF (2 ml) at room temperature was added 2N sodium hydroxide (0.186 ml; 0.372 mmol), and the resulting mixture was stirred at room temperature for ca. 2.5 h. Removal of most of the solvents, dilution with ca. 1 ml of water, followed by addition of acetic acid (ca. 300 μl) gave a precipitate. The mixture was extracted with dichloromethane to give, after removal of the solvent and trituration with diethyl ether, the title compound as a white solid (40 mg).

reactant | ethyl 3-[6-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinyl]propanoate | 0.186 mmol, 90 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C(=C2CCN(CC2=CC1)CCC(=O)OCC)C | C26H30ClN3O4
reactant | sodium hydroxide | 0.372 mmol, 2N, 0.186 ml | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-[6-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinyl]propanoic acid | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C(=C2CCN(CC2=CC1)CCC(=O)O)C | C24H26ClN3O4
